US04220644
A solution of 1.76 g. (4 mmol.) of 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester and 0.94 g. (4 mmol.) of 3,5-di-t-butyl-4-hydroxybenzaldehyde in 150 ml. of dry benzene is refluxed for ca. 4 hours under a Dean-Stark trap until no more water separates. The solution is evaporated uner reduced pressure to give a residue which is dissolved in 150 ml. of 1,2-dichloroethane and cooled to 0°-5° in an ice bath. Freshly prepared lead dioxide (5 g.) is added in 1 g. portions over 30 minutes and the reaction is stirred in the cold until complete consumption of starting material is shown by thin layer chromatography. The mixture is then filtered through Celite and the filter cake is washed with two 30 ml. portions of cold 1,2-dichloroethane. The filtrate is treated with 30 ml. of dry methanol (distilled from magnesium) and the reaction mixture is stirred at ambient temperature until complete consumption of the intermediate and formation of a new product are shown by thin layer chromatography. The reaction mixture is evaporated to dryness and the residue is taken up in 50 m. of methanol and treated with 4.0 g. of Girard reagent T. This solution is stirred at ambient temperature for 3 hours, evaporated under vacuum to a solid residue and partitioned between 150 ml. of ethyl acetate and 100 ml. of 20% aqueous sodium chloride solution. The organic phase is washed with three 100 ml. portions of 10% aqueous sodium chloride, two 100 ml. portions of water and 100 ml. of a saturated sodium chloride solution. The organic phase is dried (MgSO4), filtered and evaporated to dryness to give 7β-amino-7α-methoxy-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | 4 mmol | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(CCC(N)=O)SC2=NN=NN2 | C16H23N7O4S2
reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 4 mmol | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | lead dioxide | 5 g | [Pb](=O)=O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 7β-amino-7α-methoxy-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@@]2(OC)N)=O)C(CCC(N)=O)SC2=NN=NN2 | C17H25N7O5S2
